US07456200B2
3-[3-(4-Ethyl-5-furan-2-yl-4H-[1,2,4]triazol-3-ylsulfanylmethyl)-[1,2,4]oxadiazol-5-yl]-4-hydroxy-benzonitrile
The title compound was prepared using the general procedure of Rogers et al., Tetrahedron Letters (2002) 43: 3585-3587. To a stirring solution of 3-[3-(4-Ethyl-5-furan-2-yl-4H-[1,2,4]triazol-3-ylsulfanylmethyl)-[1,2,4]oxadiazol-5-yl]-4-fluoro-benzonitrile (20 mg, 0.050 mmol), 2-(methylsulfonyl-ethanol) (9.38 mg, 0.075 mmol), and DMF (0.05 M) at 0° C. was added NaH (5.8 mg, 0.150 mmol). Stirred for 20 min and removed the ice bath. Stirred an additional 20 min while warming to room temperature. The reaction mixture was quenched with 1 N HCl solution and partitioned between ethyl acetate and brine. The organic layer was dried (Na2SO4), filtered and concentrated to dryness. The crude organics were purified by flash column chromatography using ethyl acetate followed by 5% methanol in ethyl acetate to give the title compound (8.1 mg, 41%, white solid). 1H NMR (CDCl3), δ (ppm): 8.25 (m, 1H), 7.75 (m, 1H), 7.60 (s, 1H), 7.18 (m, 2H), 6.60 (m, 1H), 4.64 (s, 2H), 4.25 (q, 2H), 1.38 (t, 3H).

reactant | 3-[3-(4-Ethyl-5-furan-2-yl-4H-[1,2,4]triazol-3-ylsulfanylmethyl)-[1,2,4]oxadiazol-5-yl]-4-fluoro-benzonitrile | 0.050 mmol, 20 mg | C(C)N1C(=NN=C1C=1OC=CC1)SCC1=NOC(=N1)C=1C=C(C#N)C=CC1F | C18H13FN6O2S
reactant | NaH | 0.150 mmol, 5.8 mg | [H-].[Na+]
reactant | DMF | 0.05 M | CN(C)C=O | C3H7NO
product | 3-[3-(4-Ethyl-5-furan-2-yl-4H-[1,2,4]triazol-3-ylsulfanylmethyl)-[1,2,4]oxadiazol-5-yl]-4-hydroxy-benzonitrile | 8.1 mg, 41% | C(C)N1C(=NN=C1C=1OC=CC1)SCC1=NOC(=N1)C=1C=C(C#N)C=CC1O | C18H14N6O3S
